US08865732B2
Step 2. Synthesis of 5-bromo-2-phenyl-4-(pyridin-4-yl)thiazole
To the solution of 2-phenyl-4-(pyridin-4-yl)thiazole (70 mg, 0.3 mmol) in CHCl3 was added Na2CO3 (311 mg, 2.9 mmol) and Br2 (75 μL, 1.470 mmol) at rt. After 1 h, additional charges of Na2CO3 (1 g, 9.4 mmol) and Br2 (0.5 mL, 1 mmol) were added and the reaction maintained for another hour. The reaction was diluted with CHCl3 and filtered through a pad of Celite, washing the filter cake thoroughly with CHCl3. The combined filtrates were concentrated of provide 0.5-bromo-2-phenyl-4-(pyridin-4-yl)thiazole which was carried forward without further purification: LCMS (m/z): 318.9 (MH+), tR=0.75 min.

reactant | 2-phenyl-4-(pyridin-4-yl)thiazole | 0.3 mmol, 70 mg | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=NC=C1 | C14H10N2S
reactant | Na2CO3 | 2.9 mmol, 311 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Br2 | 1.470 mmol, 75 μL | BrBr | Br2
reactant | Na2CO3 | 9.4 mmol, 1 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Br2 | 1 mmol, 0.5 mL | BrBr | Br2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-phenyl-4-(pyridin-4-yl)thiazole | BrC1=C(N=C(S1)C1=CC=CC=C1)C1=CC=NC=C1 | C14H9BrN2S
